US07399780B2
Ethyl 6-(2-hydroxy-5-nitro-1H-indol-3-yl)nicotinate
To a cooled solution of 5-nitrooxindol (5.27 g, 29.6 mmol) in N,N-dimethylamide (50 mL) was added sodium hydride (1.4 g, 35 mmol) during 5 min at 0° C. After 10 min at 0° C., 6-chloronicotinic acid ethyl ester (5.0 g, 26.9 mmol) was added dropwise and the reaction was heated to 135° C. for 45 min. The mixture was diluted with water (200 mL) and saturated NH4Cl(aq) (100 mL). The formed precipitate was filtrated and washed with water, methanol, ethyl acetate and diethyl ether. The residual green yellow solid was dried to give 4.1 g (47% yield) of the title compound: 1H NMR (DMSO-d6, 300 MHz) δ 14.57 (s, 1 H), 11.24 (s, 1 H), 8.73 (s, 1 H), 8.26 (s, 1 H), 8.10 (d, J=9 Hz, 1 H), 7.92 (d, J=8 Hz, 1 H), 7.67 (d, J=9 Hz, 1 H), 7.03 (d, J=9 Hz, 1 H), 4.31 (q, J=7 Hz, 2 H), 1.32 (t, J=7 Hz, 3 H).

reactant | 5-nitrooxindol | 29.6 mmol, 5.27 g | [N+](=O)([O-])C=1C=C2CC(NC2=CC1)=O | C8H6N2O3
reactant | sodium hydride | 35 mmol, 1.4 g | [H-].[Na+]
reactant | 6-chloronicotinic acid ethyl ester | 26.9 mmol, 5.0 g | C(C)OC(C1=CN=C(C=C1)Cl)=O | C8H8ClNO2
solvent | N,N-dimethylamide | 50 mL | C[N-]C
solvent | water | 200 mL | O | H2O
solvent | NH4Cl | 100 mL | [NH4+].[Cl-]
product | Ethyl 6-(2-hydroxy-5-nitro-1H-indol-3-yl)nicotinate | 4.1 g, 47% yield | OC=1NC2=CC=C(C=C2C1C1=NC=C(C(=O)OCC)C=C1)[N+](=O)[O-] | C16H13N3O5
